US04067725
b. 2-[(2,6-dichloro-3-pyridyl)oxy]propionic acid ethyl ester
164 g (1 mole) of 2,6-dichloro-3-pyridinol, 1500 ml of acetonitrile, 253.4 g (1.4 moles) of 2-bromopropionic acid ethyl ester and 127.2 (1.2 moles) of sodium carbonate are refluxed for 3 hours. The reaction mixture is then cooled, filtered, and concentrated in a rotary evaporator. The residue is taken up in ether and washed with 2N sodium hydroxide solution. After drying with magnesium sulphate, the solution is concentrated by evaporation and distilled in vacuo; a clear oil distills at 110°-140°/0.1 torr; yield: 200 g; i nD25 : 1.5200. Crystallisation from benzene/petroleum ether yields a product having a melting point of 41°-46°;

reactant | 2,6-dichloro-3-pyridinol | 1 mole, 164 g | ClC1=NC(=CC=C1O)Cl | C5H3Cl2NO
reactant | 2-bromopropionic acid ethyl ester | 1.4 moles, 253.4 g | C(C)OC(C(C)Br)=O | C5H9BrO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 1500 ml | C(C)#N | C2H3N
product | 2-[(2,6-dichloro-3-pyridyl)oxy]propionic acid ethyl ester | C(C)OC(C(C)OC=1C(=NC(=CC1)Cl)Cl)=O | C10H11Cl2NO3
